US05962462
Step A: 2-(S)-(3,4-Dichlorophenyl)-4-penten-1-ol
To a solution of 2-(S)-(3,4-dichlorophenyl)-4-pentenoic acid (7.0 gm) (prepared as described by J. Hale et. al., Bioorganic & Medicinal Chemistry Letters 1993,3, 319-322.) in ether (50 mL) at r.t. was added portionwise over 5 min solid lithium aluminum hydride (700 mg). The reaction was heated to 40° C. for 3 hr and then stirred at r.t. for 16 hr. The reaction was poured into water containing 25 mL of 2N NaOH and extracted twice with ether. The ether layers were washed with brine, combined and dried over Na2SO4. Flash chromatograghy afforded the title compound (4.5 gm) as an oil. [α]D =+14 (EtOH, c=1.5).

reactant | 2-(S)-(3,4-dichlorophenyl)-4-pentenoic acid | 7.0 gm | ClC=1C=C(C=CC1Cl)[C@@H](C(=O)O)CC=C | C11H10Cl2O2
reactant | lithium aluminum hydride | 700 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 25 mL | O | H2O
reactant | NaOH | 2N | [OH-].[Na+]
solvent | ether | 50 mL | CCOCC | C4H10O
product | 2-(S)-(3,4-Dichlorophenyl)-4-penten-1-ol | 4.5 gm | ClC=1C=C(C=CC1Cl)[C@@H](CO)CC=C | C11H12Cl2O
